US04199420
The amount of 912 grams (4.65 moles) of methyl benzophenone was then melted and heated to 100°-110° C. in a two-liter, two-necked, round bottom flask with magnetic stirring. Chlorine gas was introduced through a gas dispersion tube immersed below the liquid at a rate such that the characteristic greenish color of chlorine was not detectable in the exiting stream of hydrogen chloride. Initially the reaction was exothermic and no additional external heating was required. After about seven hours the theoretical uptake in weight (160 g) had occured. The hot melt was poured into 6 liters of isopropyl alcohol. This mixture was chilled to -5° to 0° C. and the precipitated solid was removed by suction filtration to provide 618 grams (57% yield) of 4-(chloromethyl)benzophenone, mp 109°-111° C. A carbonyl band at 1670 cm-1 was noted in the infrared spectrum.

reactant | methyl benzophenone | 4.65 moles, 912 grams | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H12O
reactant | Chlorine | ClCl | Cl2
reactant | hydrogen chloride | Cl | ClH
reactant | isopropyl alcohol | 6 liters | C(C)(C)O | C3H8O
product | 4-(chloromethyl)benzophenone | 618 grams, 57% yield | ClCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11ClO
